US07476665B2
Step A. 3-(2-Hydroxyethyl)-2-nitropyridine
Dimethyl sulfide-borane complex (15.9 mL, 32 mmol) was added to a solution of 2-nitro-3-vinylpyridine (2.4 g, 15.9 mmol) (Yamaka et. al., Heterocycles, 1992, 34, 2379-2384) in tetrahydrofuran (30 mL) under argon. The reaction was stirred at 200C for 2 h, and concentrated in vacuo. The concentrate was redissolved in tetrahydrofuran and stirred overnight with 20% aqueous sodium hydroxide (20 mL) and 30% hydrogen peroxide solution (20 mL). Methylene chloride was added and the mixture extracted with saturated sodium bicarbonate, and the organic phase dried over sodium sulfate. The crude product was purified (silica gel, 0-50% ethyl acetate in hexane gradient elution) to produce the title compound (0.300 g). MS 169 (M+1).

reactant | 2-nitro-3-vinylpyridine | 15.9 mmol, 2.4 g | [N+](=O)([O-])C1=NC=CC=C1C=C | C7H6N2O2
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-(2-Hydroxyethyl)-2-nitropyridine | 0.300 g | OCCC=1C(=NC=CC1)[N+](=O)[O-] | C7H8N2O3
